US05102443
2-(2-Chloroethoxy)phenoxysulfonyl isocyanate
3.4 g (0.024 mol) of chlorosulfonyl isocyanate are added dropwise at 25° C. to a solution of 3.45 g (0.02 mol) of 2-(2-chloroethoxy)phenol in 20 ml of xylene. When the dropwise addition is complete, the temperature is increased slowly to 140° C., and the mixture is refluxed for 2 hours. The mixture is cooled and the solvent as well as excess chlorosulfonyl isocyanate are removed on a rotary evaporator. The yellow oil which remains (5.6 g=100% of theory) is employed without further purification.

reactant | chlorosulfonyl isocyanate | 0.024 mol, 3.4 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 2-(2-chloroethoxy)phenol | 0.02 mol, 3.45 g | ClCCOC1=C(C=CC=C1)O | C8H9ClO2
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(2-Chloroethoxy)phenoxysulfonyl isocyanate | ClCCOC1=C(OS(=O)(=O)N=C=O)C=CC=C1 | C9H8ClNO5S
